US06080743
Furan-2-carboxylic acid (7-bromo-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-amide
310 mg (0.79 mmol) of furan-2-carboxylic acid (7-bromo-2,3-dimethoxy-quinoxalin-5-ylmethyl)-amide are dissolved in 6 ml of an approximately 25% solution of hydrogen bromide in acetic acid, and the solution is stirred at room temperature for 16 hours. The mixture is diluted with diethyl ether, and the solid is filtered off and washed with diethyl ether. After drying under a high vacuum, the title compound is obtained in the form of a beige solid.

reactant | furan-2-carboxylic acid (7-bromo-2,3-dimethoxy-quinoxalin-5-ylmethyl)-amide | 0.79 mmol, 310 mg | BrC1=CC(=C2N=C(C(=NC2=C1)OC)OC)CNC(=O)C=1OC=CC1 | C16H14BrN3O4
solvent | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | Furan-2-carboxylic acid (7-bromo-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-amide | BrC1=CC(=C2NC(C(NC2=C1)=O)=O)CNC(=O)C=1OC=CC1 | C14H10BrN3O4
